US05284847
6,7-Dimethylthieno[2,3-b)pyrazine-2,3(1H,4H)-dione
Crude di-t-butyl 4,5-dimethylthiophene-2,3-dicarbamate (9.7 g) was dissolved in 70 ml of acetic acid and 70 ml of diethyl oxalate and heated at reflux for three hours. 70 ml of water was added to the hot solution to precipitate the product. After 24 hours of stirring at room temperature the title compound was isolated by filtration, recrystallised from ethanol/acetic acid (65:35) to yield 1.5 g (41%) of crystals. M.p.>300° C. MS: 196. 1H-NMR (DMSO-D6, δ): 2.0 (s, 3H), 2.2 (s, 3H), 11.8 (s, 1H), 12.1 (s, 1H).

reactant | di-t-butyl 4,5-dimethylthiophene-2,3-dicarbamate | 9.7 g | CC=1C(=C(SC1C)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H26N2O4S
reactant | diethyl oxalate | 70 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | water | 70 ml | O | H2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 6,7-Dimethylthieno[2,3-b)pyrazine-2,3(1H,4H)-dione | 1.5 g, 41% | CC1=C(C2=C(NC(C(N2)=O)=O)S1)C | C8H8N2O2S
